US06353006B1
2-Methyl-4-nitrophenyl isothiocyanate was reacted with isobutylamine followed by α-chloro-α-phenylacetic acid according to Method C8a to afford 2-(2-methyl-4-nitrophenylimino)-3-isobutyl-5-phenyl-1,3-thiazolidin4-one.

reactant | 2-Methyl-4-nitrophenyl isothiocyanate | CC1=C(C=CC(=C1)[N+](=O)[O-])N=C=S | C8H6N2O2S
reactant | isobutylamine | C(C(C)C)N | C4H11N
reactant | α-chloro-α-phenylacetic acid | ClC(C(=O)O)C1=CC=CC=C1 | C8H7ClO2
product | 2-(2-methyl-4-nitrophenylimino)-3-isobutyl-5-phenyl-1,3-thiazolidin4-one | CC1=C(C=CC(=C1)[N+](=O)[O-])N=C1SC(C(N1CC(C)C)=O)C1=CC=CC=C1 | C20H21N3O3S
